US04058612
3-ethyl-6-(hexafluoro-2-hydroxy-2-propyl)quinazoline-2,4-dione
Combine 4.02 g (10 mmole) of N-ethyl-N'-[4-(hexafluoro-2-hydroxy-2-propyl)-2-(ethoxycarbonyl)phenyl]urea with 21 ml (20 mmole) 1N NaOH and stir for 1 minute. Acidify the reaction with 1N HCl and extract with 100 ml of Et2O. Dry and concentrate the extract to obtain 3.5 g of white solid. Recrystallize from Et2O-hexane to obtain 2.5 g of white solid 3-ethyl-6-(hexafluoro-2-hydroxy-2-propyl)quinazoline-2,4-dione; m.p. 268°-270° C.

reactant | N-ethyl-N'-[4-(hexafluoro-2-hydroxy-2-propyl)-2-(ethoxycarbonyl)phenyl]urea | 10 mmole, 4.02 g | C(C)NC(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OCC | C15H16F6N2O4
reactant | NaOH | 20 mmole, 1N, 21 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
product | 3-ethyl-6-(hexafluoro-2-hydroxy-2-propyl)quinazoline-2,4-dione | 3.5 g | C(C)N1C(NC2=CC=C(C=C2C1=O)C(C(F)(F)F)(C(F)(F)F)O)=O | C13H10F6N2O3
